US05763144
Preparation of 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(2-ethylhexyloxy)-propan-2ol (102)
4-(1,1-dioxo-thiomorpholin-4-yl)phenol (4.1 g, 18 mmol), 2-ethylhexyl glycidyl ether (4.4 g, 23,6 mmol) and ethyltriphenylphosphonium bromide (0.37 g) are heated under nitrogen for 5 h at 145° C. and the crude product is chromatographed over silica gel (hexane/ethylacetate 1:1) to afford a colourless liquid 5.2 g (70%).

reactant | 4-(1,1-dioxo-thiomorpholin-4-yl)phenol | 18 mmol, 4.1 g | O=S1(CCN(CC1)C1=CC=C(C=C1)O)=O | C10H13NO3S
reactant | 2-ethylhexyl glycidyl ether | 23,6 mmol, 4.4 g | C(C1CO1)OCC(CCCC)CC | C11H22O2
catalyst | ethyltriphenylphosphonium bromide | 0.37 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-[4-(1,1-dioxo-thiomorpholin-4-yl)-phenoxy]-3-(2-ethylhexyloxy)-propan-2ol | 5.2 g, 70% | O=S1(CCN(CC1)C1=CC=C(OCC(COCC(CCCC)CC)O)C=C1)=O | C21H35NO5S
